US05468766
1-(1-Methylethyl)-1,5,6,7-tetrahydro-4H-indazol-4-one
Prepared analogously to Example 1 starting from isopropylhydrazine and 2-(dimethylaminomethylene)-cyclohexane-1,3-dione.

reactant | isopropylhydrazine | C(C)(C)NN | C3H10N2
reactant | 2-(dimethylaminomethylene)-cyclohexane-1,3-dione | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
product | 1-(1-Methylethyl)-1,5,6,7-tetrahydro-4H-indazol-4-one | CC(C)N1N=CC=2C(CCCC12)=O | C10H14N2O
